US04064106
Preparation of n- Octadecyl Dicyclohexylphosphinodithioate
To 14.0 g. (0.05 m.) of the ammonium salt of dicyclohexylphosphinodithioic acid in 250 mls. of acetone was added 16.67 g. (0.05 m.) of n-octadecylbromide and the mixture was refluxed for 15 hours. The precipitate was then separated by filtration and the filtrate was cooled to precipitate a crystalline solid. The crystalline material was filtered off and recrystallized from acetone to obtain 20 g. (77.8% yield) of product which melted at 67°-69° C.

reactant | dicyclohexylphosphinodithioic acid | C1(CCCCC1)P(=S)(S)C1CCCCC1 | C12H23PS2
reactant | n-octadecylbromide | C(CCCCCCCCCCCCCCCCC)Br | C18H37Br
solvent | acetone | CC(=O)C | C3H6O
product | n- Octadecyl Dicyclohexylphosphinodithioate | 77.8% yield | C1(CCCCC1)P(=S)(SCCCCCCCCCCCCCCCCCC)C1CCCCC1 | C30H59PS2
